US06610734B2
To a slurry of LAH (1.219 g, 32.13 mmol) in THF (60 mL) was added (4R)-3-[(2S)-2-azido-3-butylheptanoyl]-4-benzyl-1,3-oxazolidin-2-one (3.6 g, 9.37 mmol) dropwise at 0° C. over 20 min. The reaction was heated to 36° C. for 18 h. The reaction slurry (brown) was cooled to 0° C. and the reaction was quenched with H2O (15 mL) and washed with 1N NaOH (30 mL) and H2O (15 mL). It was let stir for 2 h to obtain an off-white slurry. The slurry was filtered and the mother liquor was further dried over MgSO4, filtered, and concentrated in vacuo to obtain (2S)-2-amino-3-butyl-1-heptanol as a crude yellow oil (1.93 g, 73.75%). Mass Spectrum (+ESI): 188 (M+H)+.

reactant | LAH | 32.13 mmol, 1.219 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (4R)-3-[(2S)-2-azido-3-butylheptanoyl]-4-benzyl-1,3-oxazolidin-2-one | 9.37 mmol, 3.6 g | N(=[N+]=[N-])[C@H](C(=O)N1C(OC[C@H]1CC1=CC=CC=C1)=O)C(CCCC)CCCC | C21H30N4O3
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | (2S)-2-amino-3-butyl-1-heptanol | N[C@H](CO)C(CCCC)CCCC | C11H25NO
